US07037927B2
2-chloro-N,N-dimethyl-3-pyridinesulfonamide
2-Chloro-3-pyridinesulfonyl chloride in THF (10 mL) was treated with a 2.0M solution of dimethylamine in THF (8 mL, 16 mmol). After stirring for 10 hours, the mixture was quenched with saturated aqueous NH4Cl and extracted with ethyl acetate. The organics were concentrated under reduced pressure and the residue was purified by flash chromatography (30% ethyl acetate in hexanes) to provide the title compound.

reactant | 2-Chloro-3-pyridinesulfonyl chloride | ClC1=NC=CC=C1S(=O)(=O)Cl | C5H3Cl2NO2S
reactant | dimethylamine | CNC | C2H7N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 16 mmol, 8 mL | C1CCOC1 | C4H8O
product | 2-chloro-N,N-dimethyl-3-pyridinesulfonamide | ClC1=NC=CC=C1S(=O)(=O)N(C)C | C7H9ClN2O2S
